US07723529B2
To a solution of 4-bromobutyric acid (0.91 g, 5.4 mmol), pentafluorophenol (1.00 g, 5.4 mmol) and DMAP (0.13 g, 1.1 mmol) in CH2Cl2 (10 ml) cooled to 0° C. under nitrogen, N,N-dicyclohexylcarbodiimide (1.70 g, 8.1 mmol) was added in portions. After 1 h the reaction was slowly warmed to room temperature and stirred for 5 hours. The dicyclohexylurea was filtered off and the mother liquor was concentrated and purified by flash chromatography (n-Hexane/EtOAc 98:2) affording 4-bromobutyric acid pentafluorophenyl ester as a colourless oil (1.40 g, 78%). A mixture of 4-bromobutyric acid pentafluorophenyl ester (0.65 g, 1.9 mmol) and AgNO3 (0.83 g, 4.9 mmol) in CH3CN (8 ml) was warmed at 70° C. for 20 minutes at the microwave. The formed salts were filtered off, the solvent was concentrated and the residue purified by flash chromatography (n-Hexane/EtOAc 95:5) affording 4-nitrooxybutyric acid pentafluorophenyl ester as a clear oil (0.38 g, 62%).

reactant | 4-bromobutyric acid | 5.4 mmol, 0.91 g | BrCCCC(=O)O | C4H7BrO2
reactant | pentafluorophenol | 5.4 mmol, 1.00 g | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
catalyst | DMAP | 1.1 mmol, 0.13 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-bromobutyric acid pentafluorophenyl ester | 1.40 g, 78% | FC1=C(C(=C(C(=C1OC(CCCBr)=O)F)F)F)F | C10H6BrF5O2
